US06737425B1
120-1) 2-(3-Phenylphenoxy)ethanol
In a nitrogen atmosphere, 3-phenylphenol 2.65 g, 2-bromoethanol 2.92 g and potassium carbonate 6.51 g were dissolved in N,N-dimethylformamide 16 ml and stirred at 100° C. After 5 hours, the reaction mixture was cooled to room temperature and partitioned by adding water and diethyl ether. The organic layer was washed with water and then with brine, dried over magnesium sulfate anhydride, and evaporated. The residue was purified by silica gel column chromatography (hexane/ethyl acetate system), whereby the title compound (1.78 g, 53%) was obtained as a colorless crystalline.

reactant | 3-phenylphenol | 2.65 g | C1(=CC=CC=C1)C=1C=C(C=CC1)O | C12H10O
reactant | 2-bromoethanol | 2.92 g | BrCCO | C2H5BrO
reactant | potassium carbonate | 6.51 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 16 ml | CN(C=O)C | C3H7NO
product | 2-(3-Phenylphenoxy)ethanol | C1(=CC=CC=C1)C=1C=C(OCCO)C=CC1 | C14H14O2
